US07563910B2
(rac) 1-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-5-(2-fluoro-5-trifluoromethyl-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone as compound of formula S, 2,2-dimethyl-1,3-dioxolan-4-methylamine as R3—(CH2)m—NH2 and 1-cyclohexylamine as R1R2NH, MS (ISP) 483.6 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)F | C9H5BrF4O
reactant | 2,2-dimethyl-1,3-dioxolan-4-methylamine | CC1(OCC(O1)CN)C | C6H13NO2
reactant | 1-cyclohexylamine | C1(CCCCC1)N | C6H13N
product | (rac) 1-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-5-(2-fluoro-5-trifluoromethyl-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)F)CC1OC(OC1)(C)C)C | C25H30F4N2O3
